US08563786B2
An operation was carried out in the same manner as in Example 14, except that 0.22 mL (0.375 mmol) of 4-methoxyphenylmagnesium bromide (1.7 mol/L) prepared from magnesium and 4-methoxybenzene bromide was used instead of the anhydrous THF solution of phenylmagnesium bromide. Thus, (S)-4-methoxybenzhydrol was obtained. The conversion rate of the raw material was 98%, while the enantiomeric excess was 92% ee.

reactant | 4-methoxyphenylmagnesium bromide | 0.375 mmol, 1.7 mol/L, 0.22 mL | COC1=CC=C(C=C1)[Mg]Br
reactant | magnesium | [Mg] | Mg
reactant | 4-methoxybenzene bromide | [Br-].COC1=CC=CC=C1
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
solvent | THF | C1CCOC1 | C4H8O
product | (S)-4-methoxybenzhydrol | COC1=CC=C([C@H](C2=CC=CC=C2)O)C=C1 | C14H14O2
